US04690931
1. 2-(4-Benzylpiperidino)-4'-hydroxy-3'-methoxycarbonyl-propiophenone
300 ml of methyl ethyl ketone containing 57.4 g of 2-bromo-4'-hydroxy-3'-methoxycarbonylpropiophenone, 35 g of 4-benzylpiperidine and 30.6 g of potassium carbonate are heated under reflux for 4 hours. The precipitate is filtered off hot, the filtrate is evaporated to dryness, the residue is taken up in 3N hydrochloric acid and the mixture is extracted with diethyl ether. The ether phase is stirred for one hour; the hydrochloride crystallizes and is filtered off, rinsed with diethyl ether and transferred to a beaker containing water rendered alkaline with 3N aqueous ammonia solution, and the base freed in this way is extracted with ethyl acetate. After washing, drying and evaporation of the organic phase, 52 g of product are obtained, which is used as such.

reactant | 2-bromo-4'-hydroxy-3'-methoxycarbonylpropiophenone | BrC(C(=O)C1=CC(=C(C=C1)O)C(=O)OC)C | C11H11BrO4
reactant | 4-benzylpiperidine | 35 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | potassium carbonate | 30.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 300 ml, 57.4 g | C(C)C(=O)C | C4H8O
product | 2-(4-Benzylpiperidino)-4'-hydroxy-3'-methoxycarbonyl-propiophenone | C(C1=CC=CC=C1)C1CCN(CC1)C(C(=O)C1=CC(=C(C=C1)O)C(=O)OC)C | C23H27NO4
